US09284312B2
To a solution of methyl 8-amino-1-methyl-1,2,3,4-tetrahydroquinoline-7-carboxylate (1.05 g, 4.77 mmol) in CH2Cl2 (19 mL) at 0° C. was added Br2 (1.0 M in CH2Cl2, 4.77 mL, 4.77 mmol). The mixture was warmed slowly to rt and stirred at rt for 20 min. The resulting solution was quenched with 10% aqueous Na2S2O3 (1 mL), basified with 10% aqueous Na2CO3, and extracted with CH2Cl2. The combined extracts were dried (Na2SO4) and concentrated to afford methyl 8-amino-5-bromo-1-methyl-1,2,3,4-tetrahydroquinoline-7-carboxylate in pure form.

reactant | methyl 8-amino-1-methyl-1,2,3,4-tetrahydroquinoline-7-carboxylate | 4.77 mmol, 1.05 g | NC=1C(=CC=C2CCCN(C12)C)C(=O)OC | C12H16N2O2
reactant | Br2 | 4.77 mmol, 1.0 M, 4.77 mL | BrBr | Br2
solvent | CH2Cl2 | 19 mL | C(Cl)Cl | CH2Cl2
product | methyl 8-amino-5-bromo-1-methyl-1,2,3,4-tetrahydroquinoline-7-carboxylate | NC=1C(=CC(=C2CCCN(C12)C)Br)C(=O)OC | C12H15BrN2O2
